US05618849
Follow the procedure of Example 6 except add 6 g of dibromo p-xylene and substitute 10.0 g of 2-chloro-4 ethoxycarbonyl phenol for 2-chloro-4-methoxyphenol to obtain 6.8 g of 1,1'-[1,4-phenylene bis(methyleneoxy)]-bis-[2-chloro-4-ethoxycarbonylbenzene].

reactant | dibromo p-xylene | 6 g | BrC=1C(=C(C=CC1C)C)Br | C8H8Br2
reactant | 2-chloro-4 ethoxycarbonyl phenol | 10.0 g | ClC1=C(C=CC(=C1)C(=O)OCC)O | C9H9ClO3
reactant | 2-chloro-4-methoxyphenol | ClC1=C(C=CC(=C1)OC)O | C7H7ClO2
product | 1,1'-[1,4-phenylene bis(methyleneoxy)]-bis-[2-chloro-4-ethoxycarbonylbenzene] | 6.8 g | C1(=CC=C(C=C1)COC1=C(C=C(C=C1)C(=O)OCC)Cl)COC1=C(C=C(C=C1)C(=O)OCC)Cl | C26H24Cl2O6
